US06515011B2
To a solution of 629 mg (2.02 mmol) 2-(2-(tert-butoxycarbonylamino)ethyl)-5-chlorobenzyl azide from the previous step in 30.0 mL THF containing 3.1 mL water was added 1.06 g (4.05 mmol) triphenylphosphine and the reaction was stirred at room temperature overnight. The THF was removed in vacuo and the residual aqueous phase extracted with methylene chloride (3×). The organics were combined, washed with brine, dried over sodium sulfate, filtered and concentrated to dryness in vacuo. Flash chromatography on silica gel (linear gradient from 266/10/1 to 200/10/1 of methylene chloride/methanol/concentrated ammonium hydroxide) gave 2-(2-(tert-butoxycarbonylamino)ethyl)-5-chlorobenzyl amine as a colorless oil: 1H NMR (DMSO-d6, 400 MHz): δ 7.45 (d, 1H, J=1.7 Hz), 7.18 (dd, 1H, J=2.1 and 8.2 Hz), 7.12 (d, 1H, J=8.2 Hz), 7.01 (br t, 1H, J=5.2 Hz), 3.73 (s, 2H), 3.07 (dt, 2H, J=6.5 and 7.3 Hz), 2.68 (t, 2H, J=7.4 Hz), 1.36 (s, 9H); MS (Electrospray): M+H=285.1; TLC Rf=0.33 (160/10/1 of methylene chloride/methanol/concentrated ammonium hydroxide).

reactant | 2-(2-(tert-butoxycarbonylamino)ethyl)-5-chlorobenzyl azide | 2.02 mmol, 629 mg | C(C)(C)(C)OC(=O)NCCC1=C(CN=[N+]=[N-])C=C(C=C1)Cl | C14H19ClN4O2
reactant | triphenylphosphine | 4.05 mmol, 1.06 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 30.0 mL | C1CCOC1 | C4H8O
product | 2-(2-(tert-butoxycarbonylamino)ethyl)-5-chlorobenzyl amine | C(C)(C)(C)OC(=O)NCCC1=C(CN)C=C(C=C1)Cl | C14H21ClN2O2
